US06150373
A solution containing 3 g (18 mmol) of 4-nitrophenethyl alcohol, 5.2 ml (20 mmol) of tert-butylchlorodiphenylsilane, 3.05 g (45 mmol) of imidazole and 438 mg (3.5 mmol) of N,N-dimethylaminopyridine in dimethylformamide (20 ml) was stirred under a nitrogen atmosphere at room temperature for 3 hours. The solvent was evaporated and the residue partitioned between ethyl acetate (40 ml) and 2M hydrochloric acid (40 ml). The ethyl acetate layer was separated, washed with saturated aqueous sodium bicarbonate (40 ml), dried over magnesium sulfate, filtered and evaporated to give 6.56 g of 4-[2-(tert-butyldiphenylsilyloxy) ethyl]nitrobenzene as a yellow gum.

reactant | 4-nitrophenethyl alcohol | 18 mmol, 3 g | [N+](=O)([O-])C1=CC=C(CCO)C=C1 | C8H9NO3
reactant | tert-butylchlorodiphenylsilane | 20 mmol, 5.2 ml | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 45 mmol, 3.05 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-[2-(tert-butyldiphenylsilyloxy) ethyl]nitrobenzene | 6.56 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1=CC=C(C=C1)[N+](=O)[O-] | C24H27NO3Si
